US07572801B2
Phosporous oxychloride (4.76 ml, 51 mmol) was added within 10 minutes to an ice cold solution of (E)-2-cyano-oct-2-enoic acid methyl ester (4.65 g, 26 mmol) in DMF (12 ml) under an argon atmosphere. The reaction mixture was stirred for 14 h at 80° C. and poured onto ice water. After 3 h the mixture was extracted two times with dichloromethane, the combined extracts were washed with ice water and dried over sodium sulfate. Removal of the solvent under reduced pressure left a brown oil which was purified by column chromatography (silica gel, isopropyl acetate/heptane) to give 5-butyl-2-chloro-nicotinic acid methyl ester (1.01 g, 4.4 mmol; 17%) as yellow oil. MS: m/e=227.0 [M+H+].

reactant | oxychloride | 51 mmol, 4.76 ml | O(Cl)Cl | Cl2O
reactant | (E)-2-cyano-oct-2-enoic acid methyl ester | 26 mmol, 4.65 g | COC(\C(=C\CCCCC)\C#N)=O | C10H15NO2
reactant | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 5-butyl-2-chloro-nicotinic acid methyl ester | 4.4 mmol, 1.01 g, 17% | COC(C1=C(N=CC(=C1)CCCC)Cl)=O | C11H14ClNO2
